US04596801
6-Bromo-4-phenyl-2-(4-pyridyl)-4H-3,1-benzoxazine (Compound No. 3)
4-Bromo-2-(α-hydroxybenzyl)-isonicotinanilide (12.8 g) was treated as in Synthesis 6 except that triethylamine was replaced by diethylaniline (6.0 ml). The titled compound was obtained in an amount of 10.3 g (yield: 85%).

reactant | 4-Bromo-2-(α-hydroxybenzyl)-isonicotinanilide | 12.8 g | BrC1(C(=O)NC2=CC=CC=C2)CC(=NC=C1)C(C1=CC=CC=C1)O | C19H17BrN2O2
reactant | diethylaniline | 6.0 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-Bromo-4-phenyl-2-(4-pyridyl)-4H-3,1-benzoxazine | yield: 85% | BrC=1C=CC2=C(C(OC(=N2)C2=CC=NC=C2)C2=CC=CC=C2)C1 | C19H13BrN2O
